US04232039
(a) 4-Oxo-4-(4-cyclohexyl-2-methoxyphenyl)-butyric acid
70 g of AlCl3 are added with stirring at -5° to 47.5 g of m-cyclohexylanisole, 26.5 g of succinic acid anhydride, 250 ml of tetrachloroethane and 62.5 ml of nitrobenzene, at such a rate that the temperature does not exceed -5°. The mixture is then stirred for 72 hours at 22°. 2N hydrochloric acid is then slowly added in the cold to the reaction solution until there is no further reaction, and the solution is then extracted twice with methylene chloride. The organic phases are extracted with 2N NaOH. The alkaline extract is acidified and extracted there times with ethyl acetate. The ethyl acetate phases are washed three times with water, dried over Na2SO4 and evaporated. The residue is crystallised twice from methylene chloridehexane. M.p. 130°-131°.

reactant | AlCl3 | 70 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | m-cyclohexylanisole | C1(CCCCC1)C=1C=C(C=CC1)OC | C13H18O
reactant | succinic acid anhydride | 26.5 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | nitrobenzene | 62.5 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrachloroethane | 250 ml | ClCC(Cl)(Cl)Cl | C2H2Cl4
product | 4-Oxo-4-(4-cyclohexyl-2-methoxyphenyl)-butyric acid | O=C(CCC(=O)O)C1=C(C=C(C=C1)C1CCCCC1)OC | C17H22O4
